US08017601B2
4-bromo-1H-indazole
3-bromo-2-methylaniline (1.70 ml, 13.8 mmol) was added to water (6 ml) in a corning, conical reaction vessel cooled in an ice water bath, and HBF4 (6.5 ml, 49.7 mmol) was added. Then, NaNO2 (0.99 g, 14.3 mmol) in water (2 ml), cooled in an ice water bath, was added via syringe, and the thick suspension was stirred while being warmed to room temperature over 45 minutes. It was then recooled in an ice water bath and filtered via a Buchner funnel. The solid was washed with 5% aqueous HBF4 (100 ml), the filtrate was filtered again, and the solid from both filtrations was washed with precooled (0 C) MeOH (4×25 ml) and precooled (0 C) diethyl ether (2×25 ml). The solid was then dried on a Buchner funnel for 30 minutes and then added to a flask containing KOAc (2.90 g, 29.5 mmol) and 18-c-6 (203 mg, 0.768 mmol) suspended in chloroform (100 ml). The reaction was stirred at room temperature for 2 hours and 20 minutes and then filtered, and the solid was washed with chloroform. The filtrate was washed with water (50 ml) and brine (50 ml), dried over sodium sulfate, filtered, concentrated, and diluted with water (150 ml). The suspension was filtered, and the solid was washed with hexanes, collected, and put under vacuum overnight to give title compound (773.6 mg, 28%). MS (ESI pos. ion) m/z: 197 (M+H). Calc'd Exact Mass for C7H5BrN2: 196.

reactant | 3-bromo-2-methylaniline | 13.8 mmol, 1.70 ml | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | HBF4 | 49.7 mmol, 6.5 ml | [H+].[B-](F)(F)(F)F
reactant | NaNO2 | 14.3 mmol, 0.99 g | N(=O)[O-].[Na+]
reactant | KOAc | 29.5 mmol, 2.90 g | CC(=O)[O-].[K+]
solvent | water | 2 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 6 ml | O | H2O
product | 4-bromo-1H-indazole | 773.6 mg, 28% | BrC1=C2C=NNC2=CC=C1 | C7H5BrN2
